US06500250B1
The procedure according to Example 1, 253 g (2.2 mol) of 4-ethylmorpholine was added dropwise to 144 g (2 mol) of trimethylaluminum under nitrogen gas flow with stirring. The resulting mixture was stirred for 6 hours at room temperature for reaction completion, and then the mixture was dried under vacuum at 65° C. and distilled under vacuum at 90° C. to give 329 g of the colorless 4-ethylmorpholine trimethylaluminum having high purity.

reactant | 4-ethylmorpholine | 2.2 mol, 253 g | C(C)N1CCOCC1 | C6H13NO
reactant | trimethylaluminum | 2 mol, 144 g | C[Al](C)C
product | 4-ethylmorpholine trimethylaluminum | 329 g | C[Al](C)C.C(C)N1CCOCC1 | InChI=1S/C6H13NO.3CH3.Al/c1-2-7-3-5-8-6-4-7;;;;/h2-6H2,1H3;3*1H3;
